US07943669B2
Step B: {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-piperidin-1-yl-propoxy)phenylsulfanyl]-phenoxy}-acetic Acid
{2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-piperidin-1-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (275 mg; 0.46 mmol) was dissolved in ethanol (15 mL) and aqueous 1N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h, acidified with 5% aqueous citric acid, and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 200 mg. HPLC-MS: m/z: 570.0 (M+); Rt: 2.07 min.

reactant | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-piperidin-1-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.46 mmol, 275 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCCN1CCCCC1)C#CC1=CC=C(C=C1)Cl)Cl)=O | C32H33Cl2NO4S
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-piperidin-1-yl-propoxy)phenylsulfanyl]-phenoxy}-acetic Acid | ClC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)OCCCN1CCCCC1)C#CC1=CC=C(C=C1)Cl | C30H29Cl2NO4S
